US07662808B2
N-[6-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-pyridin-3-yl]-4-nitro-benzamide hydrochloric acid salt (Compound G16)
Was prepared according to Method G from 6-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-pyridin-3-ylamine and 4-nitrobenzoyl chloride. Mp. >310° C. (decomp.).

reactant | 6-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-pyridin-3-ylamine | N12CCN(C(CC1)CC2)C2=CC=C(C=N2)N | C12H18N4
reactant | 4-nitrobenzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | N-[6-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-pyridin-3-yl]-4-nitro-benzamide hydrochloric acid salt | Cl.N12CCN(C(CC1)CC2)C2=CC=C(C=N2)NC(C2=CC=C(C=C2)[N+](=O)[O-])=O | InChI=1S/C19H21N5O3.ClH/c25-19(14-1-4-17(5-2-14)24(26)27)21-15-3-6-18(20-13-15)23-12-11-22-9-7-16(23)8-10-22;/h1-6,13,16H,7-12H2,(H,21,25);1H
